US04409214
The activated acid, which was prepared from 2-tert-butoxycarbonylmethoxyimino-2-(2-formamidothiazol-4-yl)acetic acid (syn isomer) (13.8 g), N,N-dimethylformamide (3.66 g) and phosphorus oxychloride (7.7 g) in tetrahydrofuran (80 ml) in a conventional manner, was added to a solution of benzhydryl 7-amino-3-vinyl-3-cephem-4-carboxylate hydrochloride (15 g) and trimethylsilylacetamide (32 g) in ethyl acetate (150 ml) at -20° C. with stirring, and the stirring was continued at the same temperature for half an hour. After addition of water (100 ml), the ethyl acetate layer was separated out, and washed with an aqueous solution of sodium chloride, an aqueous solution of sodium bicarbonate and then an aqueous solution of sodium chloride in turn, followed by drying over anhydrous magnesium sulfate. Removal of the solvent gave an oil, which was pulverized with diisopropyl ether and washed with the same to obtain benzhydryl 7-[2-tert-butoxycarbonylmethoxyimino-2-(2-formamidothiazol-4-yl)acetamido]-3-vinyl-3-cephem-4-carboxylate (syn isomer) (23.1 g), mp 101° C. (dec.).

reactant | 2-tert-butoxycarbonylmethoxyimino-2-(2-formamidothiazol-4-yl)acetic acid | 13.8 g | C(C)(C)(C)OC(=O)CON=C(C(=O)O)C=1N=C(SC1)NC=O | C12H15N3O6S
reactant | phosphorus oxychloride | 7.7 g | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | benzhydryl 7-amino-3-vinyl-3-cephem-4-carboxylate hydrochloride | 15 g | Cl.NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O
reactant | trimethylsilylacetamide | 32 g | C[Si](C)(C)CC(=O)N | C5H13NOSi
reactant | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 150 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 100 ml | O | H2O
solvent | N,N-dimethylformamide | 3.66 g | CN(C=O)C | C3H7NO
product | benzhydryl 7-[2-tert-butoxycarbonylmethoxyimino-2-(2-formamidothiazol-4-yl)acetamido]-3-vinyl-3-cephem-4-carboxylate | 23.1 g | C(C)(C)(C)OC(=O)CON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)C=C)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O)C=1N=C(SC1)NC=O | C34H33N5O8S2
